US07091214B2
2-Butyl-1-isobutyl-7-[(E)-2-phenylethenyl]-1H-imidazo[4,5-c]quinolin-4-amine (562 mg, 1.41 mmol) was hydrogenated in a Parr bottle over palladium on carbon (10%) until the starting material was consumed as judged by high performance liquid chromatography (HPLC) and thin layer chromatography (TLC) analyses. Purification on silica (5% to 10% methanol in CH2Cl2 gradient) followed by recrystallization from boiling CH3CN afforded 150 mg of 2-butyl-1-isobutyl-7-phenethyl-1H-imidazo[4,5-c]quinolin-4-amine, m.p. 181–182° C.

reactant | 2-Butyl-1-isobutyl-7-[(E)-2-phenylethenyl]-1H-imidazo[4,5-c]quinolin-4-amine | 1.41 mmol, 562 mg | C(CCC)C=1N(C2=C(C(=NC=3C=C(C=CC23)\C=C\C2=CC=CC=C2)N)N1)CC(C)C | C26H30N4
catalyst | palladium on carbon | [Pd] | Pd
product | 2-butyl-1-isobutyl-7-phenethyl-1H-imidazo[4,5-c]quinolin-4-amine | 150 mg | C(CCC)C=1N(C2=C(C(=NC=3C=C(C=CC23)CCC2=CC=CC=C2)N)N1)CC(C)C | C26H32N4
